US07795283B2
iv) trans-Ethyl 2-(4-{4-[(diphenylmethylene)amino]phenyl}cyclohexyl)propanoate
Caesium carbonate (4.0 g, 12.4 mmol), R-BINAP (330 mg, 0.53 mmol), palladium acetate (119 mg, 0.53 mmol) and benzophenone imine (2.2 mL, 13.2 mmol) were added sequentially, each in one portion, to a stirred solution of trans-ethyl 2-[4-(4-{[(trifluoromethyl)-sulfonyl]oxy}phenyl)cyclohexyl]propanoate in THF (50 mL) and the reaction mixture was heated at 65° C. for 70 h under an argon atmosphere. The reaction mixture was cooled to room temperature and concentrated in vacuo to leave a residue. The residue was taken up in EtOAc (75 mL) and H2O (25 mL) was added. The layers were separated and the organic layer was extracted with brine (25 mL), dried and concentrated in vacuo to leave a residue. The residue was purified by chromatography, eluting with 10-50% EtOAc in isohexane, to give the title compound (2.3 g, 59%) as an oil; 1H NMR δ (CDCl3) 1.07-1.25 (2H, m), 1.15 (3H, d), 1.3 (3H, t), 1.35-1.5 (2H, m), 1.55-1.7 (2H, m), 1.72-1.8 (1H, m), 1.83-1.95 (2H, m), 2.24-2.43 (2H, m), 4.15 (2H, q), 6.7 (2H, d), 7.0 (2H, d), 7.15 (2H, d), 7.23-7.35 (1H, m), 7.4 (2H, dd), 7.47-7.55 (2H, m), 7.78 (2H, d), 7.84 (1H, d); MS m/e MH+ 440.

reactant | Caesium carbonate | 12.4 mmol, 4.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzophenone imine | 13.2 mmol, 2.2 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | trans-ethyl 2-[4-(4-{[(trifluoromethyl)-sulfonyl]oxy}phenyl)cyclohexyl]propanoate | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(C(=O)OCC)C)(F)F | C18H23F3O5S
reactant | H2O | 25 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.53 mmol, 119 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | trans-Ethyl 2-(4-{4-[(diphenylmethylene)amino]phenyl}cyclohexyl)propanoate | 2.3 g, 59% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(C(=O)OCC)C | C30H33NO2
